US07230098B2
A mixture of 5-bromo-3-(2,6-dichloro-benzyloxy)-pyridin-2-ylamine (example I(a), 100 mg, 0.29 mmol), 4-(4,4,5,5-tetramethyl-1,3-2-dioxabordan-2-yl) phenol (86 mg, 0.35 mmol), bis(triphenylphosphine) palladium(II) chloride (8 mg, 0.009 mmol) and sodium carbonate (91 mg, 0.87 mmol) in ethylene glycol dimethyl ether (10 mL) and water (0.5 mL) was heated to reflux under nitrogen for 18 hours. The reaction was cooled to ambient temperature and diluted with ethyl acetate. The mixture was washed with water, brine, dried over Na2SO4, and purified on silica column to afford 4-[6-amino-5-(2,6-dichloro-benzyloxy)-pyridin-3-yl]-phenol as light pine crystals (89 mg, 85% yield).

reactant | 5-bromo-3-(2,6-dichloro-benzyloxy)-pyridin-2-ylamine | 0.29 mmol, 100 mg | BrC=1C=C(C(=NC1)N)OCC1=C(C=CC=C1Cl)Cl | C12H9BrCl2N2O
reactant | sodium carbonate | 0.87 mmol, 91 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 10 mL | COCCOC | C4H10O2
solvent | water | 0.5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine) palladium(II) chloride | 0.009 mmol, 8 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[6-amino-5-(2,6-dichloro-benzyloxy)-pyridin-3-yl]-phenol | NC1=C(C=C(C=N1)C1=CC=C(C=C1)O)OCC1=C(C=CC=C1Cl)Cl | C18H14Cl2N2O2
